data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1CCN(C(=O)Cc2cn(C)c3ccccc23)C(=O)C1(CC)C(=O)C(=[N+]=[N-])C(=O)OC.[Rh]", "products": "CCC1CCN(C(=O)Cc2cn(C)c3ccccc23)C(=O)C1(CC)C(=O)[C](=[Rh])C(=O)OC.N#N"}, {"reactants": "CCC1CCN(C(=O)Cc2cn(C)c3ccccc23)C(=O)C1(CC)C(=O)[C](=[Rh])C(=O)OC", "products": "CCC1CCN(C(=O)Cc2cn(C)c3ccccc23)C2=[O+][C-](C(=O)OC)C(=O)C21CC.[Rh]"}, {"reactants": "CCC1CCN(C(=O)Cc2cn(C)c3ccccc23)C2=[O+][C-](C(=O)OC)C(=O)C21CC", "products": "CCC1CCN2C(=O)CC34c5ccccc5N(C)C3C3(C(=O)OC)OC24C1(CC)C3=O"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccc(F)cc1F)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(F)cc1F)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(F)cc1F)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccc(F)cc1F)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccc(F)cc1F)C2(C)C", "products": "C[C+]1C2(c3ccc(F)cc3F)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccc(F)cc3F)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccc(F)cc2F)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(F)cc2F)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(F)cc2F)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(F)cc2F)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccc(F)cc2F)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccc(F)cc2F)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccc(F)cc3F)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccc(F)cc3F)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccc(F)cc3F)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c(C)c1", "products": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c(C)c1"}, {"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c(C)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)cc1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)cc1C", "products": "COc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c(C)c1"}]}
{"conditions": [], "steps": [{"reactants": "CC(C)C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1.C=O", "products": "CC(C)C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1"}, {"reactants": "CC(C)C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1", "products": "CC(C)C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1"}, {"reactants": "CC(C)C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1", "products": "C=[N+](O)[C@@H]1C[C@H](CC(C)C)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C[C@H](CC(C)C)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C[C@H](CC(C)C)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C[C@H](CC(C)C)C[C@H]2CC=CC[C@H]21", "products": "CC(C)C[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Clc1ccc(C(Cl)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(Cl)c2ccc(Cl)cc2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(Cl)c2ccc(Cl)cc2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1ccc(Cl)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1ccc(Cl)cc1", "products": "O=C1CCN2C[C@H](OC(Cl)c3ccc(Cl)cc3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1cc(Cl)cc(F)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1cc(Cl)cc(F)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1cc(Cl)cc(F)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(Cl)cc(F)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(Cl)cc(F)c21", "products": "CN1C(=O)C2(C=CCC2)c2cc(Cl)cc(F)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1"}, {"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)cc1", "products": "COc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(OC)C2C(Cl)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(OC)CC1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(OC)CC1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(OC)CC1(Cl)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(OC)CC1(Cl)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(OC)CC1(Cl)CC(C(=O)OC)C(=O)C2"}]}
